US04985448
(f) 1,2,3,4-Tetrahydro-4,4-dimethyl-6-nitroquinolin-2-one
To 17.5 g. (0.1 mole) 1,2,3,4-tetrahydro-4,4-dimethylquinolin-2-one in 200 ml. 80% sulphuric acid is added dropwise, while cooling with ice, a mixture of 5 ml. 96% nitric acid and 20 ml. 80% sulphuric acid, followed by stirring for 1 hour at ambient temperature. Subsequently, the reaction mixture is pured on to ice and the crystallisate is filtered off with suction and then washed with water. The crude product is purified by column chromatography on silica gel with butan-2-one/ethyl acetate (20/1 v/v) as elution agent. Yield 17.2 g. (78% of theory); m.p. 202°-204° C.

reactant | 1,2,3,4-tetrahydro-4,4-dimethylquinolin-2-one | 0.1 mole | CC1(CC(NC2=CC=CC=C12)=O)C | C11H13NO
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 1,2,3,4-Tetrahydro-4,4-dimethyl-6-nitroquinolin-2-one | CC1(CC(NC2=CC=C(C=C12)[N+](=O)[O-])=O)C | C11H12N2O3
